US06500212B1
212.4 g diethanolamine in 212.4 g of water was neutralized with 101.85 g concentrated sulfuric acid to a pH of 4. A solution of 168.99 g potassium cyanate in 260 g of water was then added and the mixture was heated to 90° C. for 3 hours. After cooling to ambient temperature, potassium sulfate precipitated and was filtered out. The filter cake was washed with 425 g of hot ethanol. The recovered ethanol was then added to the contents of the filtrate, causing the filtrate to become cloudy. The white precipitate was removed by filtration and then the ethanol was removed by distillation to give a viscous liquid solution of N,N-bis(2-hydroxyethyl)urea. The product similarly could be obtained using other acids to neutralize the amine, e.g. sulfuric acid. Also, other cyanate salts could be used, e.g. sodium cyanate.

reactant | diethanolamine | 212.4 g | N(CCO)CCO | C4H11NO2
reactant | sulfuric acid | 101.85 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium cyanate | 168.99 g | [O-]C#N.[K+]
solvent | water | 212.4 g | O | H2O
solvent | water | 260 g | O | H2O
product | N,N-bis(2-hydroxyethyl)urea | OCCN(C(=O)N)CCO | C5H12N2O3
